US05851946
A solution of 38.2 g (0.28 mol) of zinc chloride in 100 ml of tetrahydrofuran is added dropwise at room temperature to a Grignard reagent prepared from 24.3 g (1.0 mol) of magnesium and 102.1 g (0.84 mol) of 3-di-methylaminopropyl chloride in 500 ml of tetrahydrofuran, and the mixture is then heated at 70° C. for 2 hours. After cooling, insoluble material is separated off by filtration, the solvent is removed and the residue is distilled in vacuo. Bis(3-dimethylaminopropyl)zinc is obtained as a crystalline solid having a melting point of 40° C. and a boiling point of 68° C./0.1 mbar.

reactant | zinc chloride | 0.28 mol, 38.2 g | [Cl-].[Zn+2].[Cl-]
reactant | magnesium | 1.0 mol, 24.3 g | [Mg] | Mg
reactant | 3-di-methylaminopropyl chloride | 0.84 mol, 102.1 g | CN(CCCCl)C | C5H12ClN
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | Bis(3-dimethylaminopropyl)zinc | CN(CCC[Zn]CCCN(C)C)C | InChI=1S/2C5H12N.Zn/c2*1-4-5-6(2)3;/h2*1,4-5H2,2-3H3;
